US06235778B1
e) 3-[3-(5-Isoquinolinylsulfonyloxy)-5-methylphenoxy]propoxyamine
To a solution of N-[3-[3-(5-isoquinolinylsulfonyloxy)-5-methylphenoxy]propoxy]phthalimide (570 mg, 1.1 mmol), as prepared in the preceding step, in ethanol (20 mL), tetrahydrofuran (10 mL), and water (10 mL) was added sodium borohydride (230 mg, 6.0 mmol). The reaction mixture was stirred at ambient temperature overnight. The mixture was acidified (pH 1-2) with 2 N HCl and heated at 50° C. for 2 hours. After cooling to room temperature, 2 N NaOH was added to adjust the pH to 8-9. The mixture was extracted with ethyl acetate (3×50 mL). The combined organic extracts were washed with brine (50 mL) and dried over Na2SO4. After removing the solvent, the residue was purified by flash column chromatography (ethyl acetate) to give the title compound as a colorless oil (110 mg, 26%). 1H-NMR (300 MHz, CDCl3) δ9.42 (s, 1H), 8.81 (d, J=6.1 Hz, 1H), 8.54 (d, J=6.1 Hz, 1H), 8.33 (m, 2H), 7.67 (t, J=7.8 Hz, 1H), 6.55 (s, 1H), 6.28 (s, 1H), 6.23 (s, 1H), 3.81 (t, J=6.3 Hz, 2H), 3.74 (t, J=6.1 Hz, 2H), 2.15 (s, 3H), 1.94 (m, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C19H20N2O5S: 389.1 (M+H), 411.1 (M+Na). Found: 389.3, 411.1.

reactant | N-[3-[3-(5-isoquinolinylsulfonyloxy)-5-methylphenoxy]propoxy]phthalimide | 1.1 mmol, 570 mg | C1=NC=CC2=C(C=CC=C12)S(=O)(=O)OC=1C=C(OCCCON2C(C=3C(C2=O)=CC=CC3)=O)C=C(C1)C | C27H22N2O7S
reactant | sodium borohydride | 6.0 mmol, 230 mg | [BH4-].[Na+]
reactant | HCl | 2 N | Cl | ClH
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-[3-(5-Isoquinolinylsulfonyloxy)-5-methylphenoxy]propoxyamine | 110 mg, 26% | C1=NC=CC2=C(C=CC=C12)S(=O)(=O)OC=1C=C(OCCCON)C=C(C1)C | C19H20N2O5S
